US05395752
A solution of methyl 2-methoxy-benz[b]acridine-12-carboxylate (35 mg, 0.10 mmol) in 4N sodium hydroxide (3 ml) and methanol (9 ml) was stirred at 65° C. for 15 hours. The resulting mixture was evaporated under reduced pressure to dryness. The residue was dissolved in water (40 ml); the aqueous solution was acidified to pH 5 with concentrated HCl in an ice-water bath. The precipitate was collected and washed with water (5 ml), yielding 2-methoxybenz[b]acridine-12-carboxylic acid (20 mg, 59%). Rf 0.5 (silica gel, chloroform/methanol/water 65:25:4). MS (CI, CH4: m/z 304 (M+1).

reactant | methyl 2-methoxy-benz[b]acridine-12-carboxylate | 0.10 mmol, 35 mg | COC=1C=CC=2N=C3C=C4C(=CC3=C(C2C1)C(=O)OC)C=CC=C4 | C20H15NO3
solvent | sodium hydroxide | 4N, 3 ml | [OH-].[Na+]
solvent | methanol | 9 ml | CO | CH4O
product | 2-methoxybenz[b]acridine-12-carboxylic acid | 20 mg, 59% | COC=1C=CC=2N=C3C=C4C(=CC3=C(C2C1)C(=O)O)C=CC=C4 | C19H13NO3
